US08222246B2
g) 6-(3-Butyl-5-hydroxymethyl-isoxazol-4-ylmethoxy)-N-cyclobutyl-nicotinamide
To a solution of 6-[3-butyl-5-hydroxymethyl-isoxazol-4-ylmethoxy]-nicotinic acid (49 mg, 0.16 mmol) in DMF (2 mL) was added cyclobutylamine (25 mg, 0.35 mmol), O-(benzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium tetrafluoroborate (82 mg, 0.26 mmol) and N-ethyldiisopropylamine (136 μL, 0.80 mmol) with DMF (1 mL). The reaction mixture was stirred for 17 h at room temperature. The reaction was partitioned between water and ethyl acetate. The aqueous phase was extracted two times with ethyl acetate and the combined organic phases were washed with brine, dried over sodium sulfate and concentrated to a yellow oil. The crude material was purified by chromatography (silica, dichloromethane:methanol 100:0 to 97:3) to afford the title compound (36 mg, 63%) as a colorless gum. MS: m/e=360.3 [M+H]+.

reactant | 6-[3-butyl-5-hydroxymethyl-isoxazol-4-ylmethoxy]-nicotinic acid | 0.16 mmol, 49 mg | C(CCC)C1=NOC(=C1COC1=NC=C(C(=O)O)C=C1)CO | C15H18N2O5
reactant | cyclobutylamine | 0.35 mmol, 25 mg | C1(CCC1)N | C4H9N
reactant | O-(benzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium tetrafluoroborate | 0.26 mmol, 82 mg | F[B-](F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
reactant | N-ethyldiisopropylamine | 0.80 mmol, 136 μL | C(C)N(C(C)C)C(C)C | C8H19N
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 6-(3-Butyl-5-hydroxymethyl-isoxazol-4-ylmethoxy)-N-cyclobutyl-nicotinamide | 36 mg, 63% | C(CCC)C1=NOC(=C1COC1=NC=C(C(=O)NC2CCC2)C=C1)CO | C19H25N3O4
